US06555552B2
2-Chloro-5-(trifluoromethoxy)benzaldehyde
1-Chloro-2-vinyl-4-(trifluoromethoxy)benzene (Description 26; 274 mg, 1.2 mmol) was dissolved in dichloromethane (15 mL) and methanol (5 mL) and the solution cooled to −78° C. Ozone was then bubbled through until the solution turned blue. Dimethyl sulfide (1 mL) was added and the solution allowed to stir to ambient temperature for 16 hours. Concentration yielded an oil which was purified by silica chromatography to give the title compound (120 mg, 0.53 mmol).

reactant | 1-Chloro-2-vinyl-4-(trifluoromethoxy)benzene | 1.2 mmol, 274 mg | ClC1=C(C=C(C=C1)OC(F)(F)F)C=C | C9H6ClF3O
reactant | methanol | 5 mL | CO | CH4O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 2-Chloro-5-(trifluoromethoxy)benzaldehyde | 0.53 mmol, 120 mg | ClC1=C(C=O)C=C(C=C1)OC(F)(F)F | C8H4ClF3O2
